US05550233
17-Ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[3-phenyl-3oxopropyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyldimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[3-phenyl-3-hydroxypropyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (10 mg, 0.009 mmole) in CH2Cl2 (2 mL) was added NaOAc (1.6 mg, 0.020 mmole) and PCC (3 mg, 0.014 mmole). The reaction mixture was then stirred 1 hour at room temperature when reaction was complete (TLC, silica, 1:4 acetone: hexane). Celite was added and the reaction was diluted with diethyl ether. After 20 min. the reaction mixture was filtered and concentrated in vacuo to give 6 mg of the title compound. MASS:(FAB) 1158(M+ + Li).

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[3-phenyl-3-hydroxypropyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyl-dimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.009 mmole, 10 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)(CCC(O)C2=CC=CC=C2)O[Si](CC)(CC)CC)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C64H107NO13Si2
reactant | NaOAc | 0.020 mmole, 1.6 mg | CC(=O)[O-].[Na+]
reactant | PCC | 0.014 mmole, 3 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | acetone | CC(=O)C | C3H6O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-triethylsilyloxy-4"-[3-phenyl-3oxopropyl]-3"-methoxycyclohexyl)-1'-methylvinyl]-14-t-butyldimethylsilyloxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 6 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)(CCC(=O)C2=CC=CC=C2)O[Si](CC)(CC)CC)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C64H105NO13Si2
